US06174901B1
A mixture of bromine (1.6 gm, 10 mmole) and HOAc (10 mL) was added in three portions to a stirred solution of 6-((S)-2-Amino-3-phenylpropylamino)-2-(4-pyridyl)pyridine (3.04 gm, 10 mmole) in HOAc (20 mL) at rt. After 1 hr, the mixture was concentrated and purified (SiO2, CH2Cl2/MeOH/NH4OH: 100/11/8) to give 6-((S)-2-Amino-3-phenylpropylamino)-3-bromo-2-(4-pyridyl)pyridine. MS (m/z): Calcd. C19H19N4Br (M+): 383, found : 383.1 and 385.1.

reactant | bromine | 10 mmole, 1.6 gm | BrBr | Br2
reactant | 6-((S)-2-Amino-3-phenylpropylamino)-2-(4-pyridyl)pyridine | 10 mmole, 3.04 gm | N[C@H](CNC1=CC=CC(=N1)C1=CC=NC=C1)CC1=CC=CC=C1 | C19H20N4
solvent | HOAc | 20 mL | CC(=O)O | C2H4O2
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | 6-((S)-2-Amino-3-phenylpropylamino)-3-bromo-2-(4-pyridyl)pyridine | N[C@H](CNC1=CC=C(C(=N1)C1=CC=NC=C1)Br)CC1=CC=CC=C1 | C19H19BrN4
